US05545644
(R)-5-(2-Benzenesulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole hydrobromide
A mixture of (R)-5-bromo-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole (0.25 g), phenylvinylsulphone (0.19 g), tri-o-tolylphosphine (0.075 g), palladium (II) acetate (0.0125 g), triethylamine (0.25 mL) and acetonitrile (2.5 mL) was heated under reflux for 42 hours in an atmosphere of nitrogen. The solvent was evaporated and the residue was chromatographed on silica gel. Elution with dichloromethane/methanol/concentrated aqueous ammonia (90:10:1) gave the title compound as a foam (0.24 g): Anal. Calcd for C22H24N2O2S. HBr. 1/3 CH2Cl2 : C,54,77; H,5,29; N,5.72. Found: C,55.00; H,4.85; N,5.58.

reactant | (R)-5-bromo-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 0.25 g | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H17BrN2
reactant | phenylvinylsulphone | 0.19 g | C1(=CC=CC=C1)S(=O)(=O)C=C | C8H8O2S
reactant | tri-o-tolylphosphine | 0.075 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium (II) acetate | 0.0125 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | (R)-5-(2-Benzenesulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole hydrobromide | 0.24 g | Br.C1(=CC=CC=C1)S(=O)(=O)C=CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | InChI=1S/C22H24N2O2S.BrH/c1-24-12-5-6-19(24)15-18-16-23-22-10-9-17(14-21(18)22)11-13-27(25,26)20-7-3-2-4-8-20;/h2-4,7-11,13-14,16,19,23H,5-6,12,15H2,1H3;1H/t19-;/m1./s1
